US08030487B2
Synthesis of 5-(3-(Trifluoromethyl)Benzamido)-2-Methylbenzoic Acid (Intermediate 3)
To a stirring solution of 5-amino-2-methylbenzoic acid (600 mg, 4.0 mmol) in anhydrous THF (25 mL), 3-(trifluoromethyl)benzoyl chloride (910 mg, 4.3 mmol) was added slowly. The mixture was stirred at room temperature under argon for overnight. The solvent was removed under reduced pressure and re-crystallized from acetone to afford the title compound as a white solid (600 mg, 47%).

reactant | 5-amino-2-methylbenzoic acid | 4.0 mmol, 600 mg | NC=1C=CC(=C(C(=O)O)C1)C | C8H9NO2
reactant | 3-(trifluoromethyl)benzoyl chloride | 4.3 mmol, 910 mg | FC(C=1C=C(C(=O)Cl)C=CC1)(F)F | C8H4ClF3O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 5-(3-(Trifluoromethyl)Benzamido)-2-Methylbenzoic Acid | 600 mg, 47% | FC(C=1C=C(C(=O)NC=2C=CC(=C(C(=O)O)C2)C)C=CC1)(F)F | C16H12F3NO3
